US08492372B2
METHYL 4-BROMO-2,5-DIFLUOROBENZOATE
4-bromo-2,5-difluorobenzoic acid (4.82 g, 20.3 mmol) and methanol (100 ml, saturated with gaseous HCl) was heated at 65° C. for 3 h. The volatiles were evaporated, MeOH was added and once again it was evaporated. This procedure was repeated three times. Purification by flash column chromatography (isooctane/EtOAc 4:1) gave the title compound (4.2 g). MS m/z (rel. intensity, 70 eV) 252 (M+, 33), 250 (M+, 34), 221 (95), 219 (bp), 193 (20), 191 (21), 112 (32).

reactant | 4-bromo-2,5-difluorobenzoic acid | 20.3 mmol, 4.82 g | BrC1=CC(=C(C(=O)O)C=C1F)F | C7H3BrF2O2
reactant | methanol | 100 ml | CO | CH4O
product | METHYL 4-BROMO-2,5-DIFLUOROBENZOATE | 4.2 g | BrC1=CC(=C(C(=O)OC)C=C1F)F | C8H5BrF2O2
